*****************************************************************
* NXP PSMN8R5-100ES
*
* Polarity N-Channel
* Ratings 100V/8.500000E-003OHMS/100A
*
* Date Created Thu Sep 27 23:32:14 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN8R5-100ES DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.95919041133859e-09
RLS2 SOURCE 8 14.9770790540832
RLS1 8 7 0.00105087098670174

RDS 7 4 5000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00495274598733049 TC=0.0145047364631535,4.93826227842386E-06
RBD 9 4 0.000318030841242875 TC=0.0145047364631535,4.93826227842386E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 5.209e-09
RG 1 2 0.685473761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	5429.91
+ -16	5425.78
+ -10	5412.75
+ -5	5348.86
+ -4	5254.69
+ -3	5362.35
+ -2	4588.38
+ -1	3725.82
+ -0.5	3189.5
+ -0.2	2815.88
+ -0.1	2805.61
+ 0	2539.788
+ 0.1	2127.3084
+ 0.2	2124.8108
+ 0.5	1737.3956
+ 1	1449.5336
+ 2	1095.04
+ 3	906.19492
+ 4	796.52248
+ 5	718.5484
+ 6	660.78664
+ 8	580.2542
+ 10	526.15784
+ 12	485.5652
+ 15	440.15004
+ 16	427.24144
+ 20	387.83156
+ 25	351.53988
+ 30	324.36812
+ 50	259.1522



.MODEL MINT NMOS(Vto=4.2077982688155 Kp=2.571486e+002 Nfs=1220000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=2.03069764846352e-12
+ N=1 M=0.64 VJ=0.5 Fc=0.5 Cjo=1.878098e-09 Tt=2.75e-08)

.ENDS

